US07153997B2
Boron tribromide (1 N in dichloromethane, 0.11 mL) was added to a solution of methyl-N-[3,5-dichloro-4-(3-cyano-4-hydroxy-5-isopropylphenoxy)benzoyl]glycine (7 mg, 16 μmol) in dichloromethane (0.5 mL) at −78° C. The resulting reaction mixture was stirred at room temperature for 16 h and thereafter quenched by ice water. The organic solvent was removed with evaporation and the remaining residue was acidified by hydrochloric acid (1 N) and extracted by ethyl acetate. Drying over sodium sulfate, concentration and purification on a silica SPE column (0.5 g, 3 mL, gradient elution: chloroform/methanol/acetic acid from 1:0:0 to 98:2:0.5) gave 3 mg (44%) of N-[3,5-dichloro-4-(3-cyano-4-hydroxy-5-isopropyl-phenoxy)benzoyl]glycine. LC-MS (ES−1): m/z 421.

reactant | Boron tribromide | 1 N, 0.11 mL | B(Br)(Br)Br | BBr3
reactant | methyl-N-[3,5-dichloro-4-(3-cyano-4-hydroxy-5-isopropylphenoxy)benzoyl]glycine | 16 μmol, 7 mg | CN(CC(=O)O)C(C1=CC(=C(C(=C1)Cl)OC1=CC(=C(C(=C1)C(C)C)O)C#N)Cl)=O | C20H18Cl2N2O5
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | N-[3,5-dichloro-4-(3-cyano-4-hydroxy-5-isopropyl-phenoxy)benzoyl]glycine | 3 mg, 44% | ClC=1C=C(C(=O)NCC(=O)O)C=C(C1OC1=CC(=C(C(=C1)C(C)C)O)C#N)Cl | C19H16Cl2N2O5
